US04199420
To 1 liter of absolute ethyl alcohol was added 80 grams (1.2 moles) of 85% potassium hydroxide pellets with mechanical stirring. The amount of 115 grams (0.5 moles) of 4-(chloromethyl)benzophenone was added to the resulting warm solution. The reaction mixture was refluxed for three hours, filtered with suction, and concentrated. Water was added and the lower oily layer was separated and distilled to provide 102 grams (84% yield) of 4-(ethoxymethyl)benzophenone. Infrared analysis revealed the presence of a carbonyl band at 1660 cm-1. Ultraviolet analysis revealed λ max (ε) of 256 nanometers (18,360). Proton nuclear magnetic resonance analysis revealed the following where m is a multiplet, s is a singlet, q is a quartet, t is a triplet and TMS is tetramethylsilane.

reactant | potassium hydroxide | 1.2 moles, 80 grams | [OH-].[K+]
reactant | 4-(chloromethyl)benzophenone | 0.5 moles, 115 grams | ClCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H11ClO
reactant | ethyl alcohol | 1 liter | C(C)O | C2H6O
product | 4-(ethoxymethyl)benzophenone | 102 grams, 84% yield | C(C)OCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C16H16O2
